US09193935B2
2-Ethoxy-4-(4-(4-hydroxyphenyl)-2-methylbut-1-enyl)phenol
tert-Butyl(4-(4-(4-((tert-butyldimethylsilyl)oxy)-3-ethoxyphenyl)-3-methylbut-3-en-1-yl)phenoxy)dimethylsilane was dissolved in THF (30 mL), n-Bu4NF (30 mL, 30.0 mmol, 0.7 equiv., 1.0 M in THF) was added, and the mixture was stirred at 25° C. for 1 h. After addition of H2O, the aqueous layer was extracted with MTBE (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 9:1→4:1) to yield 5.87 g (48% over 2 steps) of the title compound as a light yellow oil.

reactant | tert-Butyl(4-(4-(4-((tert-butyldimethylsilyl)oxy)-3-ethoxyphenyl)-3-methylbut-3-en-1-yl)phenoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)CCC(=CC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OCC)C | C31H50O3Si2
reactant | n-Bu4NF | 30.0 mmol, 1.0 M, 30 mL, 0.7 equiv. | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | H2O | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Ethoxy-4-(4-(4-hydroxyphenyl)-2-methylbut-1-enyl)phenol | C(C)OC1=C(C=CC(=C1)C=C(CCC1=CC=C(C=C1)O)C)O | C19H22O3
